US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-2,4-difluorobenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (80 mg, 0.18 mmol) was treated with 2,4-difluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide (180 mg, 0.37 mmol), sodium carbonate (2M, 200 μl, 0.40 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (30 mg, 0.04 mmol) according to the method described in Example 3 to give 10 mg (8% yield) of the title compound. Purity 94%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.18 mmol, 80 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 2,4-difluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 0.37 mmol, 180 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C18H20BF2NO5S
reactant | sodium carbonate | 0.40 mmol, 2M, 200 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-2,4-difluorobenzenesulfonamide | 10 mg, 8% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)O)NS(=O)(=O)C1=C(C=C(C=C1)F)F)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H26F2N8O4S
